US07211119B2
1.1.5 2,4-Bis[(2-hydroxyethyl)amino]-6-methylanisole
33.5 g of 3,3′-(4-methoxy-5-methyl-1,3-phenylene)bis-(1,3-oxazolidin-2-one) were heated under reflux in 500 ml of 20% strength KOH for 10 h. The mixture was cooled to room temperature and poured onto 1.5 l of iced water. The mixture was then neutralized with HCl and extracted several times with ethyl acetate. The combined ethyl acetate phases were evaporated on a Rotavapor and then distilled in a Kugelrohr (250–290° C., 0.08 mbar).

reactant | 3,3′-(4-methoxy-5-methyl-1,3-phenylene)bis-(1,3-oxazolidin-2-one) | 33.5 g | COC1=C(C=C(C=C1C)N1C(OCC1)=O)N1C(OCC1)=O | C14H16N2O5
reactant | KOH | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | water | 1.5 l | O | H2O
product | 2,4-Bis[(2-hydroxyethyl)amino]-6-methylanisole | OCCNC1=C(C(=CC(=C1)NCCO)C)OC | C12H20N2O3
